US07700641B2
A. Synthesis of ethyl[3-hydroxy-3-(3-hydroxy-5,6,7,8-tetrahydronaphthalen-2-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate
Following the procedure as described in PREPARATION 1C, and making non-critical variations to replace 4-bromo-1-pentyl-1H-indole-2,3-dione with ethyl(2,3-dioxo-2,3-dihydro-1H-indol-1-yl)acetate, and 1,3-benzodioxol-5-ol with 5,6,7,8-tetrahydronapthalen-2-ol, the title compound was obtained (81%): 1H NMR (300 MHz, CDCl3) δ 8.61 (s, 1H), 7.54 (dd, 1H), 7.38 (td, 1H), 7.20 (t, 1H), 6.80 (d, 1H), 6.76 (s, 1H), 6.50 (s, 1H), 4.45 (ABq, 2H), 4.21 (q, 2H), 4.18-4.14 (br, 1H), 2.73-2.47 (m, 4H), 1.77-1.63 (m, 4H), 1.24 (t, 3H); MS (ES+) m/z 364 (M−17), 404 (M+23)

reactant | 4-bromo-1-pentyl-1H-indole-2,3-dione | BrC1=C2C(C(N(C2=CC=C1)CCCCC)=O)=O | C13H14BrNO2
reactant | ethyl(2,3-dioxo-2,3-dihydro-1H-indol-1-yl)acetate | C(C)OC(CN1C(C(C2=CC=CC=C12)=O)=O)=O | C12H11NO4
reactant | 1,3-benzodioxol-5-ol | O1COC2=C1C=CC(=C2)O | C7H6O3
reactant | 5,6,7,8-tetrahydronapthalen-2-ol | C1=C(C=CC=2CCCCC12)O | C10H12O
product | ethyl[3-hydroxy-3-(3-hydroxy-5,6,7,8-tetrahydronaphthalen-2-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate | C(C)OC(CN1C(C(C2=CC=CC=C12)(C1=CC=2CCCCC2C=C1O)O)=O)=O | C22H23NO5
